US05935986
c) Methyl α-(2-bromomethyl-3-chlorophenyl)-β-methoxyacrylate
27.0 g of methyl α-(3-chloro-2-methylphenyl)-β-methoxyacrylate and 21.5 g of N-bromosuccinimide were stirred in 300 ml of anhydrous tetrachloromethane. After 1 g of Porofor N had been added, the mixture was refluxed for 4 hours. After cooling to room temperature (=25° C.), the succinimide was removed. The combined organic phases were washed with water, dried over sodium sulfate and concentrated. This gave 23 g of the title compound as colorless crystals.

reactant | methyl α-(3-chloro-2-methylphenyl)-β-methoxyacrylate | 27.0 g | ClC=1C(=C(C=CC1)C(C(=O)OC)=COC)C | C12H13ClO3
reactant | N-bromosuccinimide | 21.5 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | Porofor N | 1 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | tetrachloromethane | 300 ml | ClC(Cl)(Cl)Cl | CCl4
product | Methyl α-(2-bromomethyl-3-chlorophenyl)-β-methoxyacrylate | BrCC1=C(C=CC=C1Cl)C(C(=O)OC)=COC | C12H12BrClO3
